datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5][c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1][C:2](=[C:3]([c:4]1[c:5]([H:12])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:14])[H:13])([H:10])[H:11],29.551592
[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])([H:10])[H:11])([H:8])[H:9].[H:17]>>[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])([H:10])[H:11])([H:8])([H:9])[H:17],0.0
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6]>>[C:0](=[C:1]([C:3]([C:2]([H:8])[H:9])([C:4]([H:11])([H:12])[H:13])[H:10])[H:7])([H:5])[H:6],61.124056
[C:0](#[C:1][C:2]([C:3]#[C:4][H:9])([C:5]#[C:6][H:10])[H:8])[H:7].[H:11]>>[C:0](=[C:1]([C:2]([C:3]#[C:4][H:9])([C:5]#[C:6][H:10])[H:8])[H:11])[H:7],12.92856
[C:0]([O:1][H:4])([H:2])[H:3].[O:5][H:6]>>[C:0](=[O:1])([H:2])[H:3].[H:4][O:5][H:6],0.0
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16](=[C:17]([H:19])[H:20])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:16](=[C:17]([H:19])[H:20])[H:18],-16.3176
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[O:35][H:36]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:22][O:35][H:36],-5.819944
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5]([C:6]([C:7]([H:14])([H:15])[H:16])([C:8](=[S:9])[H:17])[H:13])([H:10])([H:11])[H:12]>>[C:0](#[C:1][C:2](=[S:3])[H:13])[H:4].[C:5]([C:6]([C:7]([H:14])([H:15])[H:16])[C:8](=[S:9])[H:17])([H:10])([H:11])[H:12],57.3208
[C:0](=[S:1])([H:2])[H:3].[S:4][S:5][H:6]>>[C:0]([S:1])([H:2])([H:3])[S:4][S:5][H:6],52.7602
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:19])([H:20])[H:21])[H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10])[H:9]>>[C:0](#[C:1][C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C:6]([H:16])([H:17])[C:7]1([C:8]([H:19])([H:20])[H:21])[H:18])[H:10])[H:9],17.3636
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([O:6][O:7])([H:8])([H:9])[H:10]>>[C:0]([H:2])([H:3])[H:4].[H:1][O:7][O:6][C:5]([H:8])([H:9])[H:10],83.127712
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15]([C:16]([H:19])([H:20])[H:21])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:15]([C:16]([H:19])([H:20])[H:21])([H:17])[H:18])[H:8])[H:7],17.9912
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[S:7]=[C:8][S:9][H:10]>>[C:0]([C:1](=[S:2])[H:6])([H:4])[H:5].[H:3][C:8](=[S:7])[S:9][H:10],51.4632
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])([H:26])[H:27])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:9])([H:10])[H:11].[C:28]([H:29])([H:30])[H:31]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])([H:26])[H:27])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:10])[H:11].[H:9][C:28]([H:29])([H:30])[H:31],0.0
[C:0]1([H:6])[C:1]([H:7])=[C:2]([H:8])[C:3]([H:9])=[C:4]([H:10])[C:5]1([H:11])[H:12]>>[C:0]12([H:6])[C:1]([H:7])=[C:2]([H:8])[C:3]([H:9])[C:4]1([H:10])[C:5]2([H:11])[H:12],153.958648
[C:0]([C:1](=[O:2])[C:3]([C:4]([C:5]([O:6][O:7][H:17])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1](=[O:2])[C:3]([C:4]([C:5]([O:6])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[O:7][H:17],179.912
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14](=[C:15][C:16]([H:19])([H:20])[H:21])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])([H:7])[C:15](=[C:14]([H:17])[H:18])[C:16]([H:19])([H:20])[H:21])[H:6],7.322
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[H:15])([H:5])[H:6].[O:16][O:17]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[H:15])([H:5])([H:6])[O:16][O:17],0.8313608
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([H:15])([H:16])[H:17])([C:8]([O:9][O:10])([H:18])[H:19])[H:14])([H:11])([H:12])[H:13]>>[C:0]([H:2])([H:3])[H:4].[H:1][O:10][O:9][C:8]([C:6]([C:5]([H:11])([H:12])[H:13])([C:7]([H:15])([H:16])[H:17])[H:14])([H:18])[H:19],85.60464
